US03963660
Pyridine-2,5-diyldioxamic acid
Diethyl N,N'-2,5-pyridinediyldioxamate (1.0 g., 0.0032 mole) is stirred in 1.0N sodium hydroxide (25 ml.) at 70°-85° until solution is complete. The reaction mixture is diluted with water (25 ml.) and acidified (pH=3) with concentrated hydrochloric acid. The desired product is collected by filtration (0.35 g., 43%, m.p. 290°-295° dec.).

reactant | Diethyl N,N'-2,5-pyridinediyldioxamate | 0.0032 mole, 1.0 g | N1=C(C=CC(=C1)NC(C(=O)OCC)=O)NC(C(=O)OCC)=O | C13H15N3O6
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1.0N, 25 ml | [OH-].[Na+]
solvent | water | 25 ml | O | H2O
product | Pyridine-2,5-diyldioxamic acid | N1=C(C=CC(=C1)NC(C(=O)O)=O)NC(C(=O)O)=O | C9H7N3O6
